US08859773B2
To a suspension of 7-bromoisoquinolin-1(2H)-one (70 g, 0.31 mol) in N,N-dimethylformamide (1 L) was added copper cyanide (56 g, 0.63 mol). The reaction was heated to 180° C. for 2 hours. The reaction was cooled to room temperature and was diluted with water (1 L). The solution was extracted with ethyl acetate (3 x). The organics were dried over sodium sulfate, filtered, and concentrated to give crude 1-oxo-1,2-dihydroisoquinoline-7-carbonitrile (37 g). This crude material was taken up in ethanol (500 mL) and 1 N aqueous sodium hydroxide (400 mL) was added. The mixture was heated to reflux and stirred for 2 hours. The reaction was cooled to room temperature and the pH was adjusted to ˜2 with 1 N aqueous hydrochloric acid. The solids were collected by filtration, rinsed with water, and dried under vacuum to give the title compound (35 g, 85%) as an off-white solid. 1H NMR (400 MHz, DMSO-d6, δ): 13.15 (br. s., 1H), 11.49 (s, 1H), 8.75 (s, 1H), 8.17-8.14 (m, 1H), 7.75 (d, 1H), 7.34-7.29 (m, 1H), 6.62 (d, 1H).

reactant | 7-bromoisoquinolin-1(2H)-one | 0.31 mol, 70 g | BrC1=CC=C2C=CNC(C2=C1)=O | C9H6BrNO
reactant | copper cyanide | 0.63 mol, 56 g | [Cu](C#N)C#N
solvent | N,N-dimethylformamide | 1 L | CN(C=O)C | C3H7NO
solvent | water | 1 L | O | H2O
product | 1-oxo-1,2-dihydroisoquinoline-7-carbonitrile | 37 g | O=C1NC=CC2=CC=C(C=C12)C#N | C10H6N2O
